US07750003B2
Phenyl N-[4-[4-[(3S)-3-methylmorpholin-4-yl]-6-(pyridin-2-ylsulfonylmethyl)pyrimidin-2-yl]phenyl]carbamate
Phenyl chloroformate (0.390 mL, 3.10 mmol) was added to 4-[4-[(3S)-3-methylmorpholin-4-yl]-6-(pyridin-2-ylsulfonylmethyl)pyrimidin-2-yl]aniline (1.1 g, 2.59 mmol) and sodium hydrogen carbonate (0.434 g, 5.17 mmol) in dioxane (25 mL) at RT. The resulting slurry was stirred at RT for 1 hour. The mixture was partitioned between ethyl acetate and water. The organic solution was separated, dried (MgSO4) and concentrated under reduced pressure. The residue was purified by flash silica chromatography using gradient elution 0%-20% ethyl acetate in DCM, to give the desired material as a yellow foam (1.130 g).

reactant | Phenyl chloroformate | 3.10 mmol, 0.390 mL | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | 4-[4-[(3S)-3-methylmorpholin-4-yl]-6-(pyridin-2-ylsulfonylmethyl)pyrimidin-2-yl]aniline | 2.59 mmol, 1.1 g | C[C@@H]1N(CCOC1)C1=NC(=NC(=C1)CS(=O)(=O)C1=NC=CC=C1)C1=CC=C(N)C=C1 | C21H23N5O3S
reactant | sodium hydrogen carbonate | 5.17 mmol, 0.434 g | C(O)([O-])=O.[Na+]
solvent | dioxane | 25 mL | O1CCOCC1 | C4H8O2
product | Phenyl N-[4-[4-[(3S)-3-methylmorpholin-4-yl]-6-(pyridin-2-ylsulfonylmethyl)pyrimidin-2-yl]phenyl]carbamate | 1.130 g | C[C@@H]1N(CCOC1)C1=NC(=NC(=C1)CS(=O)(=O)C1=NC=CC=C1)C1=CC=C(C=C1)NC(OC1=CC=CC=C1)=O | C28H27N5O5S
